US04806535
A mixture of 2,3-pyridinedicarboxylic anhydride (9.0 g, 60.36 mmol) in 75 mL of fluorobenzene is warmed and stirred mechanically while AlCl3 (17.7 g, 0.132 mol) is added portionwise from a powder addition funnel over 20 m. The resulting mixture is heated to reflux for 24 hours, then allowed to cool and the excess fluorobenzene decanted. Quenching of the residue with ice water and 5% aqueous HCl generates a solid which is filtered and washed with hot H2O. The combined filtrates are evaporated to a final volume of ca. 250 mL, then heated to boiling and treated with a hot solution of 15% aqueous CuSO4 solution to precipitate a blue solid. The suspension is filtered and the resulting solid resuspended in H2O (75 mL) and treated with a stream of H2S gas until the initial blue color of the suspension subsides and is replaced by a black suspension. The solid is filtered with the aid of Celite and the filtrate evaporated to produce a tan solid which is recrystallized from H2O to obtain 3-(4-fluorobenzoyl)pyridine-2-carboxylic acid. M.P. 153.5°-155° C.

reactant | 2,3-pyridinedicarboxylic anhydride | 60.36 mmol, 9.0 g | N1=C2C(=CC=C1)C(=O)OC2=O | C7H3NO3
reactant | AlCl3 | 0.132 mol, 17.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorobenzene | 75 mL | FC1=CC=CC=C1 | C6H5F
product | 3-(4-fluorobenzoyl)pyridine-2-carboxylic acid | FC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)O)C=C1 | C13H8FNO3
